US04337346
In 7 ml of THF, was dissolved 295 mg of 2-carbomethoxy-3-phenyl-1,3-diazabicyclo[3,3,0]octane. After addition of 138 mg of anhydrous magnesium chloride, the mixture was refluxed for 10 minutes. To the mixture cooled to -70° C., was added dropwise an ether solution of 1.36 equivalents of methylmagnesium bromide. After having been stirred for 15 minutes at -70° C., the reaction mixture was admixed with saturated aqueous ammonium chloride solution and ether and brought to room temperature. The mixture was extracted with ether and the ether layer was dried. The ether layer was freed from the solvent by distillation in vacuo and the residue was purified by alumina column chromatography to obtain 199 mg (72%) of 2-acetyl-3-phenyl-1,3-diazabicyclo[3,3,0]octane. NMR peaks: δ (ppm)=1.5-2.2 (4H, multiplet), 1.9 (3H, singlet), 2.4-3.3 (3H, multiplet), 3.5-3.9 (2H, multiplet), 4.1 (1H, singlet), 6.1-7.1 (5H, multiplet).

reactant | 2-carbomethoxy-3-phenyl-1,3-diazabicyclo[3,3,0]octane | 295 mg | C(=O)(OC)C1N2CCCC2CN1C1=CC=CC=C1 | C14H18N2O2
reactant | magnesium chloride | 138 mg | [Cl-].[Mg+2].[Cl-]
reactant | methylmagnesium bromide | 1.36 equivalents | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-acetyl-3-phenyl-1,3-diazabicyclo[3,3,0]octane | 199 mg, 72% | C(C)(=O)C1N2CCCC2CN1C1=CC=CC=C1 | C14H18N2O
